US05374636
(1R,2R,3S)-2-(4-Chlorophenoxy)carbonyl-3-(4-fluorophenyl)tropane.
A mixture of (1R,2R,3S)-3-(4-fluorophenyl)tropane 2-carboxylate (1.4 g, 5 mmol) and thionyl chloride (5 ml) was refluxed for one hour and the reaction mixture was concentrated in vacuo. The remanescens was suspended in diethyl ether (20 ml) and a solution of 4-chlorophenol (0.64 g, 5 mmol) and triethyl amine (1.4 ml, 10 mmol) in diethyl ether (10 ml) was added at room temperature. The mixture was stirred at room temperature over night and tetrahydrofurane (30 ml) was added and the mixture was refluxed for three hours. The reaction was quenched by addition of water (50 ml) and was extracted with diethyl ether. The combined organic phase was washed with sodium hydroxide (1M) and three times with water. After drying and concentration in vacuo the crude product was subjected to column chromatography first with ethyl acetate and later with ethyl acetate and methanol (20%) as eluent yielding the title compound as white crystals, m.p. 64°-66° C.

reactant | (1R,2R,3S)-3-(4-fluorophenyl)tropane 2-carboxylate | 5 mmol, 1.4 g | FC1=CC=C(C=C1)[C@@H]1[C@H]([C@H]2CC[C@@H](C1)N2C)C(=O)[O-]
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-chlorophenol | 5 mmol, 0.64 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | triethyl amine | 10 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | tetrahydrofurane | 30 ml | O1CCCC1 | C4H8O
product | (1R,2R,3S)-2-(4-Chlorophenoxy)carbonyl-3-(4-fluorophenyl)tropane | ClC1=CC=C(OC(=O)[C@H]2[C@H]3CC[C@@H](C[C@@H]2C2=CC=C(C=C2)F)N3C)C=C1 | C21H21ClFNO2
